US07902367B2
Step 14c) 2-[3-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]carbonylamino]piperidin-1-yl]benzaldehyde
Using N-(piperidin-3-yl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide (67.2 mg, 0.200 mmol) and 2-fluorobenzaldehyde (0.211 mL, 2.00 mmol), the same procedure was followed as in Step 6c of Example 6 to give 14.9 mg (17%) of the desired compound as a colorless powder.

reactant | N-(piperidin-3-yl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide | 0.200 mmol, 67.2 mg | N1CC(CCC1)NC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C16H18ClN3OS
reactant | 2-fluorobenzaldehyde | 2.00 mmol, 0.211 mL | FC1=C(C=O)C=CC=C1 | C7H5FO
product | 2-[3-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]carbonylamino]piperidin-1-yl]benzaldehyde | 14.9 mg, 17% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)NC1CN(CCC1)C1=C(C=O)C=CC=C1 | C23H22ClN3O2S
